US06780996B2
Following the procedure of Reference Example 32, 7-(2-methoxyethoxy)-4-oxo-1,4-dihydroquinoline-3-carbonitrile (800 mg, 3.28 mmol), thionyl chloride and a catalytic amount of N,N-dimethylformamide provides 748 mg of 4-chloro-7-(2-methoxyethoxy)quinoline-3-carbonitrile as an off-white solid solid, mp 143-145° C.

reactant | 7-(2-methoxyethoxy)-4-oxo-1,4-dihydroquinoline-3-carbonitrile | 3.28 mmol, 800 mg | COCCOC1=CC=C2C(C(=CNC2=C1)C#N)=O | C13H12N2O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-chloro-7-(2-methoxyethoxy)quinoline-3-carbonitrile | 748 mg | ClC1=C(C=NC2=CC(=CC=C12)OCCOC)C#N | C13H11ClN2O2
